US07872036B2
13.5 g of 2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)aniline was added dropwise to 30 ml of concentrated hydrochloric acid at room temperature, and to this mixture, an aqueous solution containing 3.8 g of sodium nitrite was added dropwise at from 0 to 5° C., and the mixture was stirred as it was for 1 hour to prepare a diazonium salt. 36 g of tin chloride dihydrate was dissolved in 250 ml of 6N hydrochloric acid, and to this mixed solution, the above aqueous diazonium salt solution was added dropwise at from 0 to 5° C., and the solution was further stirred at room temperature for 2 hours. Toluene was added, the solution was neutralized with an aqueous sodium hydroxide solution, the insolubles were filtered off, and the organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 12.1 g of 2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine.

reactant | 2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)aniline | 13.5 g | ClC1=C(N)C=C(C(=C1)C)SCC(F)(F)F | C9H9ClF3NS
reactant | sodium nitrite | 3.8 g | N(=O)[O-].[Na+]
reactant | tin chloride dihydrate | 36 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 6N, 250 ml | Cl | ClH
solvent | hydrochloric acid | 30 ml | Cl | ClH
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine | 12.1 g | ClC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN | C9H10ClF3N2S
